US04980088
2,2'-azobis(4-methoxy-2,4-dimethylvaleronitrile)
tert-butyl perpivalate, dioctanoyl peroxide, dilauroyl peroxide, 2,2,-azobis(2,4-dimethylvaleronitrile)

reactant | tert-butyl perpivalate | CC(C)(C)C(=O)OOC(C)(C)C | C9H18O3
reactant | dioctanoyl peroxide | C(CCCCCCC)(=O)OOC(CCCCCCC)=O | C16H30O4
reactant | dilauroyl peroxide | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
reactant | azobis(2,4-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
product | 2,2'-azobis(4-methoxy-2,4-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)(OC)C)C)C(C#N)(CC(C)(C)OC)C | C16H28N4O2
